US06500985B2
N-(diphenylmethylene)-L-phenylalanine methyl ester (3.35 g) and bromochloromethane (0.83 ml) were added to dehydrated tetrahydrofuran (97 ml), and the mixture was cooled to −78° C. Then, a 1.53 M n-butyllithium hexane solution (8.3 ml) was added thereto. The mixture was stirred for 35 minutes. A saturated aqueous solution of ammonium chloride was added to the reaction solution to terminate the reaction. The resulting reaction solution was extracted twice with ethyl acetate at room temperature. The ethyl acetate layer was then washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. After magnesium sulfate was removed, the ethyl acetate solution was concentrated to obtain desired (3S)-1-chloro-3-(diphenylmethylene)amino-4-phenyl-2-butanone (3.52 g) in a yield of 99.7%.

reactant | N-(diphenylmethylene)-L-phenylalanine methyl ester | 3.35 g | COC([C@@H](N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H21NO2
reactant | bromochloromethane | 0.83 ml | BrCCl | CH2BrCl
reactant | n-butyllithium hexane | 1.53 M, 8.3 ml | CCCCCC.C(CCC)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 97 ml | O1CCCC1 | C4H8O
product | (3S)-1-chloro-3-(diphenylmethylene)amino-4-phenyl-2-butanone | 3.52 g, yield of 99.7% | ClCC([C@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H20ClNO
